US07728030B2
N-[(1R,2S)-1-(3-ethylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-2,2,2-trifluoro-acetamide
(1R,2S)-1-(3-ethylphenyl)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)propan-2-amine hydrochloride (50 mg, 0.12 mmol), 1,1,3,3-tetramethylguanidine (100 μl, 0.79 mmol) and ethyl trifluoroacetate (200 μl, 1.68 mmol) in MeOH (2.5 mL) was stirred at r.t. for 1 h. The reaction mixture was concentrated by evaporation, the residual material was purified by HPLC. Yield 41 mg (72%).

reactant | (1R,2S)-1-(3-ethylphenyl)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)propan-2-amine hydrochloride | 0.12 mmol, 50 mg | Cl.C(C)C=1C=C(C=CC1)[C@H]([C@H](C)N)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F
reactant | 1,1,3,3-tetramethylguanidine | 0.79 mmol, 100 μl | CN(C(=N)N(C)C)C | C5H13N3
reactant | ethyl trifluoroacetate | 1.68 mmol, 200 μl | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | MeOH | 2.5 mL | CO | CH4O
product | N-[(1R,2S)-1-(3-ethylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-2,2,2-trifluoro-acetamide | C(C)C=1C=C(C=CC1)[C@H]([C@H](C)NC(C(F)(F)F)=O)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C26H23F4N3O2
